US04958041
Under an inert gas, 152.0 g isobutyltrimethoxy silane (0.85 mol) was dissolved in 50 ml diethylether. While stirring, 667 ml of a 1.5 molar solution of cyclohexylmagnesiumchloride in ether was added dropwise to the solution at a rate to maintain a moderate reflux. At the end of the addition, the reaction was continued under reflux for several hours. After cooling the reaction mixture, 4.8 g methanol (0.15 mol) was added, stirred for a few minutes and then the resulting precipitate was removed by filtration. The filter cake was washed with several portions of diethylether. The solvent was then evaporated from the combined filtrates using a water aspirator. The remaining residue consisted of 192.7 g (98.4% of the theoretical yield) isobutylcyclohexyldimethoxysilane, which had a purity of 98% according to gas chromatography (GC). Isobutyldicyclohexylmethoxysilane was not detected by GC.

reactant | isobutyltrimethoxy silane | 0.85 mol, 152.0 g | C(C(C)C)[Si](OC)(OC)OC | C7H18O3Si
reactant | cyclohexylmagnesiumchloride | C1(CCCCC1)[Mg]Cl
reactant | methanol | 0.15 mol, 4.8 g | CO | CH4O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | isobutylcyclohexyldimethoxysilane | C(C(C)C)[Si](OC)(OC)C1CCCCC1 | C12H26O2Si
